US06800637B2
N-[3-(7-Methoxy-1-benzofuran-3-yl)propyl]-N-(8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)amine
To a stirred solution of 3-(7-methoxy-benzofuran-3-yl)-propylamine (770 mg, 3.75 mmol) in 5 mL of anhydrous DMSO was added [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate (563 mg, 1.25 mmol). The reaction mixture was heated to 50° C. overnight. The reaction was diluted with saturated aqueous sodium bicarbonate (10 mL) and extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with brine (3×30 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuum. Flash chromatography on SiO2 (5% MeOH/CH2Cl2) afforded 120 mg (23%) of the (S)-enantiomer of the title compound as a yellow oil. The fumarate salt was prepared, yielding 132 mg of a beige solid, m.p. 155-160° C.; MS (ESI) m/z 419 [M+H]+.

reactant | 3-(7-methoxy-benzofuran-3-yl)-propylamine | 3.75 mmol, 770 mg | COC1=CC=CC=2C(=COC21)CCCN | C12H15NO2
reactant | [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate | 1.25 mmol, 563 mg | BrC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C19H16BrNO5S
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
product | N-[3-(7-Methoxy-1-benzofuran-3-yl)propyl]-N-(8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)amine | COC1=CC=CC=2C(=COC21)CCCNCC2COC=1C(=C3C=CC(=NC3=CC1)C)O2 | C25H26N2O4
